Name:  ___            Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: CARDIOTHORACIC
 
Allergies: 
lisinopril / Naprosyn
 
Attending: ___.
 
Chief Complaint:
Cough
 
Major Surgical or Invasive Procedure:
___
VATS left lower lobe wedge resection and mediastinal lymph node 
dissection.

 
History of Present Illness:
Ms, ___ is a ___ former 35 py
smoker ((quit ___ with 8 mm LLL nodule noted on ___ in ___
with 3 month f/u CT noted the nodules to be growing to 9 x ___one ___ as recommended revealed two left lower lobe
nodules with increased FDG avidity, measuring 8 x 7 mm with a 
SUV
max of 5.2 (CT 72, PET 96) and 8 x 5 mm with a SUV max of 3.3 
(CT
73, PET 97)as well as mildly increased FDG uptake in the left
hilar and mediastinal lymph nodes, concerning for malignancy. 

She reports a productive cough of yellow to clear phlegm, no
hemoptysis. She reports dyspnea with incline or with climbing
stairs. She reports that her COPD is well controlled with 
Spiriva
and has not to use any rescue inhalers or denies any 
exacerbation
or any abx recently. She denies wheezing, shortness of breath at
rest, weight loss, fever, chills, HA or any neurologic symptoms.
She has hx of esophageal stricture , last dilated ___ years ago,
denies dysphagia but pays attention to cut foods in small pieces
and to chew thoroughly. She has hx of frequent UTIs, followed
closely by Urology and PCP. No new

 
Past Medical History:
HYPERTENSION 
OSTEOPOROSIS 
CHRONIC OBSTRUCTIVE PULMONARY DISEASE 
HYPERLIPIDEMIA 
DISC HERNIATION L4-L5, L5 RADICULOPATHY, ___ ___, ___ MRI 
TUBAL LIGATION 
LEFT BREAST BX, NEG 
MILD DJD CHANGES ___ 
SQUAMOUS CELL CARCINOMA Right temple
HEMATURIA, URETERAL STRICTURE, ___, ___ ___ 
___ OF LOWER LIMB
PERIPHERAL VASCULAR DISEASE 
MACULAR DEGENERATION 
ESOPHAGEAL STRICTURE 
Cataract surgery
stent in ureter
stent in leg

 
Social History:
___
Family History:
Mother: CHRONIC OBSTRUCTIVE PULMONARY DISEASE -FRACTURED BONE 
  
Father: LEUKEMIA 
  
Brother: RHEUMATOID ARTHRITIS -CANCER 

 
Physical Exam:
BP: 152/77 (repeated 143/111). Heart Rate: 82. O2 Saturation%:
97. Weight: 150.4 (With Shoes). BMI: 26.6. Temperature: 97.9.
Resp. Rate: 16. Pain Score: 0. Distress Score: 8.   
GENERAL        
[x] WN/WD  [x] NAD  [x] AAO  [ ] abnormal findings:

HEENT          
[x] NC/AT   [] EOMI   [] PERRL/A   [x] Anicteric
[] OP/NP mucosa normal     [] Tongue midline
[] Palate symmetric  [] Neck supple/NT/without mass
[] Trachea midline [] Thyroid nl size/contour
[ ] Abnormal findings:

RESPIRATORY    
[] CTA/P     [x] Excursion normal     [ ] No fremitus
[] No egophony   [] No spine/CVAT
[x ] Abnormal findings: faint bibasilar rales

CARDIOVASCULAR 
[x] RRR    [x] No m/r/g    [] No JVD   [] PMI nl  [x] No edema
[x] Peripheral pulses nl    [] No abd/carotid bruit
[ ] Abnormal findings:

GI             
[x] Soft    [x] NT   [x] ND  [x] No mass/HSM   [] No hernia
[ ] Abnormal findings:

GU             [x] Deferred  
[ ] Nl genitalia    [ ] Nl pelvic/testicular exam    [ ] Nl DRE
[ ] Abnormal findings:

NEURO          
[x] Strength intact/symmetric    [] Sensation intact/ symmetric
[] Reflexes nl     [x] No facial asymmetry [x] Cognition intact
[] Cranial nerves intact   [ ] Abnormal findings:

MS     
        
[x] No clubbing   [] cyanosis   [] No edema   [x] Gait nl
[] No tenderness  [] Tone/align/ROM nl   [] Palpation nl
[] Nails nl   [ ] Abnormal findings:

LYMPH NODES   
[x] Cervical nl      [x] Supraclavicular nl     [x] Axillary nl
[] Inguinal nl   [ ] Abnormal findings:

SKIN           
[] No rashes/lesions/ulcers
[] No induration/nodules/tightening     [ x] Abnormal findings:
left ankle area with erythematous rash 

PSYCHIATRIC    
[x] Nl judgment/insight    [x] Nl memory   [x] Nl mood/affect
[ ] Abnormal findings:

 
Pertinent Results:
___ CXR :
Mild pulmonary edema and anticipated postoperative appearance 
status-post left lower lobe resection without residual 
pneumothorax. 

 
Brief Hospital Course:
Ms. ___ was admitted to the hospital and taken to the 
Operating Room where she underwent a VATS left lower lobe wedge 
resection and mediastinal lymph node dissection. She tolerated 
the procedure well and returned to the PACU in stable condition. 
She maintained stable hemodynamics and her ___ drain put out a 
minimal amount of thin, bloody fluid. 

Following transfer to the Surgical floor she progressed well. 
Her ___ drain was removed early on post op day #1 and her post 
pull chest xray showed a stable left apical pneumothorax.  Her 
oxygen was weaned off and her room air saturations were 96%. Her 
port sites were dry.

She was up and walking independently and after an uneventful 
recovery she was discharged to home on ___ ___ will follow 
up in the Thoracic Clinic in 2 weeks.

 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
further investigation.
1. Tiotropium Bromide 1 CAP IH DAILY 
2. Zolpidem Tartrate 5 mg PO QHS 
3. Atenolol 50 mg PO DAILY 
4. Furosemide 40 mg PO DAILY 
5. Omeprazole 20 mg PO DAILY 
6. Ascorbic Acid ___ mg PO BID 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H 
RX *acetaminophen 500 mg 2 tablet(s) by mouth every eight (8) 
hours Disp #*100 Tablet Refills:*0 
2.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*60 Capsule Refills:*0 
3.  Milk of Magnesia 30 mL PO Q12H:PRN Constipation - First Line 
 
4.  OxyCODONE (Immediate Release) ___ mg PO Q ___ HRS PRN Pain 
- Moderate 
  Reason for PRN duplicate override: for transfer to floor
RX *oxycodone 5 mg ___ tablet(s) by mouth Q ___ hrs Disp #*20 
Tablet Refills:*0 
5.  Ascorbic Acid ___ mg PO BID  
6.  Atenolol 50 mg PO DAILY  
7.  Furosemide 40 mg PO DAILY 
start ___  
8.  Omeprazole 20 mg PO DAILY  
9.  Tiotropium Bromide 1 CAP IH DAILY  
10.  Zolpidem Tartrate 5 mg PO QHS  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Left lower lobe nodule.

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
* You were admitted to the hospital for lung surgery and you've 
recovered well. You are now ready for discharge. 

* Continue to use your incentive spirometer 10 times an hour 
while awake.

* Check your incisions daily and report any increased redness or 
drainage.   Cover the area with a gauze pad if it is draining.

* Your chest tube dressing may be removed in 48 hours.  If it 
starts to drain, cover it with a clean dry dressing and change 
it  as needed to keep site clean and dry.

* You may need pain medication once you are home but you can 
wean it over the next week as the discomfort resolves.  Make 
sure that you have regular bowel movements while on narcotic 
pain medications as they are constipating which can cause more 
problems.  Use a stool softener or gentle laxative to stay 
regular.

* No driving while taking narcotic pain medication.

* Take Tylenol on a standing basis to avoid more opiod use.

* Continue to stay well hydrated and eat well to heal your 
incisions

* No heavy lifting > 10 lbs for 4 weeks.

* Shower daily. Wash incision with mild soap & water, rinse, pat 
dry
  * No tub bathing, swimming or hot tubs until incision healed
  * No lotions or creams to incision site

* Walk ___ times a day and gradually increase your activity as 
you can tolerate.

 Call Dr. ___ ___ if you experience:
  -Fevers > 101 or chills
  -Increased shortness of breath, chest pain or any other 
symptoms that concern you.

** If pathology specimens were sent at the time of surgery, the 
reports will be reviewed with you in detail at your follow up 
appointment. This will give both you and your doctor time to 
understand the pathology, its implications and discuss options 
going forward.**

 

 
 
Followup Instructions:
___